US05902818
Preparation of 4-(crotonoxymethyl)-4-ethyl-2-oxazolidinone (1b)
3.1 grams (0.021 mole) 4-ethyl-4-hydroxymethyl-2-oxazolidinone, prepared identically to that discussed in example 1, 2.3 grams (0.022 mole) trans-crotonyl chloride, and 25 milliliters chloroform were mixed in a one-necked round-bottom flask. The procedure employed was identical to that discussed in example 1. 4.20 grams (98 % of the yield theoretically expected) of pure product was obtained as a clear oil. The product exhibited the following spectral data: 1H NMR (CDCl3) δ0.90(t, 3H J=1.8 Hz), 1.48-1.67(m, 2H), 1.83(d, 3H J=3.6 Hz), 3.97-4.19(m, 4H), 5.79(d, 1H J=3.6 Hz), 6.90-6.99(m, 2H); 13C NMR (CDCl3) δ7.3, 18.1, 28.3, 60.2, 66.7, 70.9, 121.7, 146.3, 159.6, 166.0; IR (NaCl) 3229, 3020, 2960, 1780 cm-1 ; MS m/z 213. This monomer can be chlorinated or brominated by the same procedure as in example 1.

reactant | 4-ethyl-4-hydroxymethyl-2-oxazolidinone | 0.021 mole, 3.1 grams | C(C)C1(NC(OC1)=O)CO | C6H11NO3
reactant | trans-crotonyl chloride | 0.022 mole, 2.3 grams | C(\C=C\C)(=O)Cl | C4H5ClO
reactant | NaCl | [Na+].[Cl-]
solvent | chloroform | 25 milliliters | C(Cl)(Cl)Cl | CHCl3
product | 4-(crotonoxymethyl)-4-ethyl-2-oxazolidinone | C(\C=C\C)(=O)OCC1(NC(OC1)=O)CC | C10H15NO4
